US07915424B2
5-(3-Cyano-4-fluorophenylethynyl)-nicotinonitrile
Add a 28% aqueous solution of ammonium hydroxide (10 mL) and iodine (279 mg, 1.10 mmol) to a solution of 5-(4-fluoro-3-formylphenylethynyl) -nicotinonitrile, (prepared as described in PREPARATION 38), (250 mg, 1.00 mmol) in tetrahydrofuran (5 mL). After 3.25 h quench with a 5% aqueous solution of sodium bisulfite (5 mL) and extract twice with ethyl acetate. Wash the organic layers with saturated aqueous sodium chloride, dry (sodium sulfate), filter, and concentrate. Dissolve the crude solid in dichloromethane and add PS-TsNNH2 (3g, ˜1.2 mmol, Argonaut). Stir the mixture for 20 min and filter through diatomaceous earth. Purify by silica gel chromatography, eluting with 90:10 to 80:20 (70:30 hexanes:dichloromethane):ethyl acetate, to give the title compound as a white crystalline solid (140 mg, 57%).

reactant | ammonium hydroxide | 10 mL | [OH-].[NH4+]
reactant | iodine | 1.10 mmol, 279 mg | II | I2
reactant | 5-(4-fluoro-3-formylphenylethynyl) -nicotinonitrile | 1.00 mmol, 250 mg | FC1=C(C=C(C=C1)C#CC=1C=NC=C(C#N)C1)C=O | C15H7FN2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-(3-Cyano-4-fluorophenylethynyl)-nicotinonitrile | 140 mg, 57% | C(#N)C=1C=C(C=CC1F)C#CC=1C=NC=C(C#N)C1 | C15H6FN3
